US08304419B2
Step E: N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[(3S)-3,4-dihydroxybutyl]oxy}-1H-indole-2-carboxamide
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (25.0 mg, 0.080 mmol), 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1H-indole-2-carboxylic acid (24.53 mg, 0.080 mmol) and DIPEA (0.014 mL, 0.080 mmol) in DMF (1 mL) was added HATU (30.6 mg, 0.080 mmol). After 2 h the reaction mixture was poured into EtOAc and water. The organic layer was separated, dried over MgSO4 and the solvent evaporated. The residue was diluted to 2 mL with MeOH. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.019 g, 42%) as a white solid. 1H NMR (400 MHz, Acetone-d6): δ ppm 10.67 (br. s., 1H), 8.31 (t, 1H), 7.60 (t, 1H), 7.46 (d, 1H), 7.40-7.42 (m, 1H), 7.38-7.40 (m, 1H), 7.34-7.38 (m, 2H), 7.07 (d, 1H), 7.04 (d, 1H), 6.88 (dd, 1H), 4.67 (d, 2H), 4.04-4.17 (m, 2H), 3.82-3.91 (m, 1H), 3.51-3.58 (m, 1H), 3.43-3.50 (m, 1H), 1.92-2.01 (m, 1H), 1.73-1.84 (m, 1H). LCMS m/z 558.0 (M+1).

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.080 mmol, 25.0 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | 5-({2-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethyl}oxy)-1H-indole-2-carboxylic acid | 0.080 mmol, 24.53 mg | CC1(OC[C@@H](O1)CCOC=1C=C2C=C(NC2=CC1)C(=O)O)C | C16H19NO5
reactant | DIPEA | 0.080 mmol, 0.014 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.080 mmol, 30.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[(3S)-3,4-dihydroxybutyl]oxy}-1H-indole-2-carboxamide | 0.019 g, 42% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)OCC[C@@H](CO)O)F)OC1=CC(=CC(=C1)C#N)Cl | C27H22Cl2FN3O5
